US04997840
Triethylamine (3 ml) was added to a stirred mixture of 7-chloro-3-hydroxy-1-methyl-4-quinolone (2.31g), methanesulphonyl chloride (1.3 ml) and dichloromethane (70 ml) and the resultant solution stirred for 90 minutes. The solvent was removed by distillation and the residue crystallised from industrial methylated spirit (30 ml) and the solid triturated with diethyl ether (50 ml) to give the novel compound 7-chloro-1-methyl-4-oxo-1,4-dihydroquinol-3-yl methanesulphonate, m.p. 157°-158°.

reactant | Triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-3-hydroxy-1-methyl-4-quinolone | 2.31g | ClC1=CC=C2C(C(=CN(C2=C1)C)O)=O | C10H8ClNO2
reactant | methanesulphonyl chloride | 1.3 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 7-chloro-1-methyl-4-oxo-1,4-dihydroquinol-3-yl methanesulphonate | CS(=O)(=O)OC1=CN(C2=CC(=CC=C2C1=O)Cl)C | C11H10ClNO4S
